US09062070B2
Step D: tert-butyl (3S)-4-[2-(3-cyano-4-fluoro-2-methoxyphenyl)-2-hydroxyethyl]-3-(hydroxymethyl)piperazine-1-carboxylate
6-Fluoro-2-methoxy-3-(oxiran-2-yl)benzonitrile (1.4 g, 7.3 mmol) and (S)-4-N-BOC-2-hydroxymethylpiperazine (3.13 g, 14.5 mmol) were suspended in ethanol (15 mL) then heated in a microwave apparatus for 60 min at 150° C. The reaction mixture was cooled and evaporated to dryness. The residue was purified by chromatography through a 40 g Redi-sep column and eluting with 5% MeOH/95% EtOAc to yield the title compound: LC-MS: M+1=410;

reactant | 6-Fluoro-2-methoxy-3-(oxiran-2-yl)benzonitrile | 7.3 mmol, 1.4 g | FC1=CC=C(C(=C1C#N)OC)C1OC1 | C10H8FNO2
reactant | (S)-4-N-BOC-2-hydroxymethylpiperazine | 14.5 mmol, 3.13 g | C(=O)(OC(C)(C)C)N1C[C@H](NCC1)CO | C10H20N2O3
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | tert-butyl (3S)-4-[2-(3-cyano-4-fluoro-2-methoxyphenyl)-2-hydroxyethyl]-3-(hydroxymethyl)piperazine-1-carboxylate | C(#N)C=1C(=C(C=CC1F)C(CN1[C@@H](CN(CC1)C(=O)OC(C)(C)C)CO)O)OC | C20H28FN3O5
